US08193359B2
2-Bromomethylfuro[3,2-c]pyridine hydrochloride
A stirred suspension of furo[3,2-c]pyridin-2-ylmethanol (Preparation 4, 1.47 g, 9.9 mmol) in anhydrous CH2Cl2 (60 mL) was treated with CBr4 (4.90 g, 14.8 mmol). The mixture was cooled down to 0° C., before being treated with PPh3 (3.88 g, 14.8 mmol). After 2 h at 20° C., the reaction was filtered, then the filtrate was diluted with CH2Cl2 (50 mL), before being washed with saturated aqueous NaHCO3 (2×50 mL) and H2O (50 mL). The CH2Cl2 solution was extracted with 2 M HCl (3×50 mL), then the combined HCl extracts were evaporated to furnish the title compound: m/z (ES+)=211.9, 213.9 [M+H]+.

reactant | furo[3,2-c]pyridin-2-ylmethanol | 9.9 mmol, 1.47 g | O1C(=CC=2C=NC=CC21)CO | C8H7NO2
reactant | CBr4 | 14.8 mmol, 4.90 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 14.8 mmol, 3.88 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromomethylfuro[3,2-c]pyridine hydrochloride | Cl.BrCC1=CC=2C=NC=CC2O1 | InChI=1S/C8H6BrNO.ClH/c9-4-7-3-6-5-10-2-1-8(6)11-7;/h1-3,5H,4H2;1H
